US04933355
2-Diphenylmethylaminothiazole-4-carbaldehyde
Following a procedure similar to that described in Preparation 50, the desired compound was prepared from 2.11 g of 1-(2-diphenylmethylaminothiazol-4-yl)ethane-1,2-diol, 3.15 g of sodium metaperiodate, 40 ml of water and 20 ml of methanol. The resulting product was a pale brown foam having the following physical properties.

reactant | 1-(2-diphenylmethylaminothiazol-4-yl)ethane-1,2-diol | 2.11 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC=1SC=C(N1)C(CO)O | C18H18N2O2S
reactant | sodium metaperiodate | 3.15 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 40 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 2-Diphenylmethylaminothiazole-4-carbaldehyde | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC=1SC=C(N1)C=O | C17H14N2OS
